* ngspice KiCad multi-device 74xx model

.subckt 74HC14M 1 2 3 4 5 6 7 8 9 10 11 12 13 14

.SUBCKT 74HC14  1A  1Y
+     optional: DPWR=$G_DPWR DGND=$G_DGND
+     params: MNTYMXDLY=0 IO_LEVEL=0
U1 inv DPWR DGND
+     1A  1Y
+     DLY_HC14 IO_HC_ST MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
.model DLY_HC14 ugate (tplhTY=12ns tplhMX=25ns tphlTY=12ns tphlMX=25ns)
.ENDS  74HC14

* VSS pin 7, VCC pin 14
X1 1 2 74HC14
X2 3 4 74HC14
X3 5 6 74HC14
X4 9 8 74HC14
X5 11 10 74HC14
X6 13 12 74HC14

.ends
