* use old opamp to test rather than TI model
* still unsure of bottom leg of balaced
* OP-07D operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 09/21/89 at 09:26
* connections:         non-inverting input
*                      | inverting input
*                      | | positive power supply
*                      | | | negative power supply
*                      | | | | output
*                      | | | | |
.subckt OPAMP_SINGLE   1 2 3 4 5
*
  c1   11 12 6.996E-12
  c2    6  7 30.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 115.9E6 -100E6 100E6 100E6 -100E6
  ga    6  0 11 12 115.0E-6
  gcm   0  6 10 99 204.5E-12
  iee  10  4 dc 9.004E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx
  q2   12  1 14 qx
  r2    6  9 100.0E3
  rc1   3 11 8.696E3
  rc2   3 12 8.696E3
  re1  13 10 2.947E3
  re2  14 10 2.947E3
  ree  10 99 22.21E6
  ro1   8  5 30
  ro2	7 99 31.2
  rp    3  4 11.29E3
  vb    9  0 dc 0
  vc    3 53 dc 2.800
  ve   54  4 dc 2.800
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.0E-18)
.model qx NPN(Is=800.0E-18 Bf=2.250E3)
.ends
